US09210929B2
Step 3: Tert-butyl 5-bromo-2-oxo-3,3a,4,8b-tetrahydroindeno[1,2-b]pyrrole-1-carboxylate
To a suspension of 5-bromo-3,3a,4,8b-tetrahydro-1H-indeno[1,2-b]pyrrol-2-one (0.85 g, 3.4 mmol) in anhydrous acetonitrile (50 mL) was added dimethylaminopyridine (0.04 g, 0.3 mmol), triethylamine (0.944 mL, 6.7 mmol) and di-t-butyl dicarbonate (1.47 g, 6.7 mmol). The solution was stirred at room temperature overnight. The solution was diluted with ethyl acetate and washed with hydrogen chloride (1 M) and brine. The combined organic layers were dried and concentrated. The residue was purified by flash chromatography eluting with ethyl acetate and cyclohexane (2/8) to give the desired product (480 mg). LC-MS (Method B) RT 1.02 min, 725/727/729 (2M+Na+).

reactant | 5-bromo-3,3a,4,8b-tetrahydro-1H-indeno[1,2-b]pyrrol-2-one | 3.4 mmol, 0.85 g | BrC1=C2CC3C(NC(C3)=O)C2=CC=C1 | C11H10BrNO
reactant | dimethylaminopyridine | 0.3 mmol, 0.04 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 6.7 mmol, 0.944 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 6.7 mmol, 1.47 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Tert-butyl 5-bromo-2-oxo-3,3a,4,8b-tetrahydroindeno[1,2-b]pyrrole-1-carboxylate | 480 mg | BrC1=C2CC3C(N(C(C3)=O)C(=O)OC(C)(C)C)C2=CC=C1 | C16H18BrNO3
